US06011174
(2) Preparation of tert-butyl (2R)-2-bromo-3-hydroxypropionate
18.1 g of (2R)-2-bromo-3-hydroxypropionic acid and 200 ml of chloroform were mixed, and 53.6 g of O-tert-butyl-N,N-diisopropylisourea was added under cooling with ice, followed by stirring at room temperature for 15 hours. Insoluble matters were filtered off, and then, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1→5/1) to obtain 14.7 g (yield: 61%) of the above identified compound as a colorless oily substance.

reactant | (2R)-2-bromo-3-hydroxypropionic acid | 18.1 g | Br[C@@H](C(=O)O)CO | C3H5BrO3
reactant | O-tert-butyl-N,N-diisopropylisourea | 53.6 g | C(C)(C)(C)OC(N(C(C)C)C(C)C)=N | C11H24N2O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl (2R)-2-bromo-3-hydroxypropionate | yield: 61% | Br[C@@H](C(=O)OC(C)(C)C)CO | C7H13BrO3
